US07468375B2
Step 7: 1-(2,4-Difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid.
To ethyl 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (0.30 g, 1.58 mmol) in methanol (3 mL) was added sodium hydroxide (0.076 g, 3.16 mmol) in water (0.5 mL). The reaction was heated in a SmithCreator™ (microwave reactor from Personal Chemistry) to 100° C. for five minutes. The reaction solution was poured into water (30 mL) and the pH was adjusted to 2-3 by addition of citric acid. The precipitate that formed was collected by filtration and dried in vacuo to provide the title compound as a white powder (0.15 g, 55%). 1H NMR (DMSO-d6): δ ppm 8.97 (s, 1H), 8.35 (s, 1H), 7.82 (d, 1H, J=3.2 Hz), 7.28-7.38 (m, 2H), 7.09 (t, 1H, J=8.4 Hz), 6.76 (d, 1H, J=3.2 Hz), 5.67 (s, 2H). LCMS (API-ES, M+H+): 289.1

reactant | ethyl 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 1.58 mmol, 0.30 g | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)OCC)C=CC(=C1)F | C17H14F2N2O2
reactant | sodium hydroxide | 3.16 mmol, 0.076 g | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 1-(2,4-Difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 0.15 g, 55% | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=CC(=C1)F | C15H10F2N2O2
